US07795249B2
A mixture of 2-(1-{[5-(aminomethyl)-2-thienyl]carbonyl}-3-pyridin-3-yl-4,5-dihydro-1H-pyrazol-5-yl)phenol (0.080 g, 0.21 mmol), EDCI (0.070 g, 0.36 mmol), DIPEA (0.150 mL, 0.86 mmol), and picolinic acid (0.31 g. 0.25 mmol) in DCM (4 mL) was allowed to stir at rt overnight. The reaction mixture was diluted with water and extracted with DCM. The organic solutions were combined, washed with brine, dried over MgSO4, filtered, and concentrated. The residue was purified by column chromatography to give N-[(5-{[5-(2-hydroxyphenyl)-3-pyridin-3-yl-4,5-dihydro-1H-pyrazol-1-yl]carbonyl}-2-thienyl)methyl]pyridine-2-carboxamide (I-136) (0.033 g) as a clear oil. LCMS: (FA) ES+ 484.2. 1H NMR (400 MHz, d6-DMSO) δ: 9.53-9.59 (m, 1H), 9.05-9.09 (m, 1H), 8.72-8.76 (m, 1H), 8.65-8.69 (m, 1H), 8.36-8.41 (m, 1H), 8.06-8.11 (m, 1H), 7.98-8.05 (m, 1H), 7.88 (d, 1H), 7.60-7.67 (m, 2H), 7.02-7.12 (m, 2H), 6.86-6.91 (m, 1H), 6.82 (d, 1H), 6.69 (t, 1H), 5.82 (dd, 1H), 4.70 (d, 2H), 3.82-3.92 (m, 1H), and 3.17 (dd, 1H).

reactant | 2-(1-{[5-(aminomethyl)-2-thienyl]carbonyl}-3-pyridin-3-yl-4,5-dihydro-1H-pyrazol-5-yl)phenol | 0.21 mmol, 0.080 g | NCC1=CC=C(S1)C(=O)N1N=C(CC1C1=C(C=CC=C1)O)C=1C=NC=CC1 | C20H18N4O2S
reactant | EDCI | 0.36 mmol, 0.070 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | DIPEA | 0.86 mmol, 0.150 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | picolinic acid | 0.25 mmol, 0.31 g | N1=C(C=CC=C1)C(=O)O | C6H5NO2
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-[(5-{[5-(2-hydroxyphenyl)-3-pyridin-3-yl-4,5-dihydro-1H-pyrazol-1-yl]carbonyl}-2-thienyl)methyl]pyridine-2-carboxamide | 0.033 g | OC1=C(C=CC=C1)C1CC(=NN1C(=O)C1=CC=C(S1)CNC(=O)C1=NC=CC=C1)C=1C=NC=CC1 | C26H21N5O3S
